US07655799B2
2-{[2-(Hydroxy)ethyl]sulfonyl}ethyl N,N,N′,N′-tetrakis(2-chloroethyl)phosphorodiamidate (150 mg, 0.31 mmol) was dissolved in dichloromethane (2 mL) and cooled to 0° C., and N,N-diisopropylethylamine (108 μL, 0.62 mmol) and trifluoromethanesulfonic anhydride (55 μL, 0.33 mmol) were added, and the reaction mixture allowed to stand for 15 minutes. The reaction mixture was added to a solution of diethylamine (64 μL, 0.62 mmol) in isopropyl acetate (2 mL), and this was allowed to stand for 30 minutes. The reaction mixture was diluted with isopropyl acetate (10 mL) and washed with 5% aqueous NaHCO3 (2×10 mL) and 1M aqueous HCl (2×5 mL). The aqueous acidic fractions were combined, washed with dichloromethane (10 mL), and solid NaHCO3 was added to pH>9. The mixture was extracted with isopropyl acetate (2×10 mL), and the isopropyl acetate extracts combined, dried over MgSO4, filtered, diluted with HCl (4.0M in dioxane, 1 mL), and concentrated under vacuum to give 2-{[2-(diethylamino)ethyl]sulfonyl}ethyl N,N,N′,N′-tetrakis(2-chloroethyl)phosphorodiamidate hydrochloride as a pale brown oil (32 mg, 19% yield). MS (ES+): m/z=536 [C16H34Cl4N3O4PS+H].

reactant | 2-{[2-(Hydroxy)ethyl]sulfonyl}ethyl N,N,N′,N′-tetrakis(2-chloroethyl)phosphorodiamidate | 0.31 mmol, 150 mg | ClCCN(P(OCCS(=O)(=O)CCO)(=O)N(CCCl)CCCl)CCCl | C12H25Cl4N2O5PS
reactant | N,N-diisopropylethylamine | 0.62 mmol, 108 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoromethanesulfonic anhydride | 0.33 mmol, 55 μL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | diethylamine | 0.62 mmol, 64 μL | C(C)NCC | C4H11N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | isopropyl acetate | 2 mL | C(C)(=O)OC(C)C | C5H10O2
solvent | isopropyl acetate | 10 mL | C(C)(=O)OC(C)C | C5H10O2
product | 2-{[2-(diethylamino)ethyl]sulfonyl}ethyl N,N,N′,N′-tetrakis(2-chloroethyl)phosphorodiamidate hydrochloride | 32 mg, 19% yield | Cl.ClCCN(P(OCCS(=O)(=O)CCN(CC)CC)(=O)N(CCCl)CCCl)CCCl | InChI=1S/C16H34Cl4N3O4PS.ClH/c1-3-21(4-2)13-15-29(25,26)16-14-27-28(24,22(9-5-17)10-6-18)23(11-7-19)12-8-20;/h3-16H2,1-2H3;1H
